US07598391B2
[5-(3,3-Dicyclopentyl-ureido)-[1,3,4]thiadiazol-2-ylsulfanyl]-acetic acid
[5-(3,3-Dicyclopentyl-ureido)-[1,3,4]thiadiazol-2-ylsulfanyl]-acetic acid ethyl ester prepared as described in general procedures (A) and (B) using dicyclopentylamine and ethyl-2-[5-amino-1,3,4-thiadiazol-2-yl-thio]acetate. Hydrolysis using general procedure (F) gave the title compound.

reactant | [5-(3,3-Dicyclopentyl-ureido)-[1,3,4]thiadiazol-2-ylsulfanyl]-acetic acid ethyl ester | C(C)OC(CSC=1SC(=NN1)NC(=O)N(C1CCCC1)C1CCCC1)=O | C17H26N4O3S2
reactant | dicyclopentylamine | C1(CCCC1)NC1CCCC1 | C10H19N
reactant | ethyl-2-[5-amino-1,3,4-thiadiazol-2-yl-thio]acetate | C(C)OC(CSC=1SC(=NN1)N)=O | C6H9N3O2S2
product | [5-(3,3-Dicyclopentyl-ureido)-[1,3,4]thiadiazol-2-ylsulfanyl]-acetic acid | C1(CCCC1)N(C(NC1=NN=C(S1)SCC(=O)O)=O)C1CCCC1 | C15H22N4O3S2
